US08242104B2
A mixture of chloro-(5-bromo-2-but-3-ynyloxyphenylhydrazono)acetic acid ethyl ester (3.28 g, 8.78 mmol) and triethylamine (12.2 mL, 88 mmol) in dry toluene (900 mL) was heated at gentle reflux (120° C.) for 54 h. The cooled mixture was filtered, the residue washed with ethyl acetate and the filtrate concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 10 to 15% ethyl acetate in cyclohexane) to give 9-Bromo-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene-2-carboxylic acid ethyl ester as a yellow solid (2.52 g, 85%). LCMS: RT=4.52 min, M+H+=337/339, [M+Na]+=359/361.

reactant | chloro-(5-bromo-2-but-3-ynyloxyphenylhydrazono)acetic acid ethyl ester | 8.78 mmol, 3.28 g | C(C)OC(C(=NNC1=C(C=CC(=C1)Br)OCCC#C)Cl)=O | C14H14BrClN2O3
reactant | triethylamine | 88 mmol, 12.2 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 900 mL | C1(=CC=CC=C1)C | C7H8
product | 9-Bromo-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene-2-carboxylic acid ethyl ester | 2.52 g, 85% | C(C)OC(=O)C=1C=C2CCOC3=C(N2N1)C=C(C=C3)Br | C14H13BrN2O3
